US04332944
Following the procedure of Example 1, 5-chloro-2-pyridinemethanol, prepared from 5-chloropicolinic acid, is reacted with 1-fluoro-4-nitrobenzene to give 5-chloro-2-(4-nitrophenoxy)methylpyridine, which is converted to 5-chloro-2-(4-aminophenoxy)methylpyridine by reduction with iron and ammonium chloride. The 5-chloro-2-(4-aminophenoxy)methylpyridine and 3,4,5,6-tetrahydrophthalic anhydride are reacted to yield the final product N-4-[2-(5-chloropyridyl)methoxy]phenyl-3,4,5,6-tetrahydrophthalimide.

reactant | 5-chloro-2-pyridinemethanol | ClC=1C=CC(=NC1)CO | C6H6ClNO
reactant | 5-chloropicolinic acid | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 5-chloro-2-(4-nitrophenoxy)methylpyridine | ClC=1C=CC(=NC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C12H9ClN2O3
